.SUBCKT xnor A B OUT VDD GND
*.INCLUDE inverter.sub
*.INCLUDE and_gate.sub
*.INCLUDE or_gate.sub
.INCLUDE nor_gate.sub

*X1 A node1 VDD GND inverter
*X2 B node2 VDD GND inverter
*X3 A B node3 VDD GND and
*X4 node1 node2 node4 VDD GND and
*X5 node3 node4 OUT VDD GND or

X1 A B node1 VDD GND nor
X2 A node1 node2 VDD GND nor
X3 node1 B node3 VDD GND nor
X4 node2 node3 OUT VDD GND nor

.ENDS xnor
