
.include full_adder.sub
.include half_adder.sub

.subckt fourbit_adder A0 A1 A2 A3 B0 B1 B2 B3 S0 S1 S2 S3 carry vdd gnd
x1 A0 B0 C1  S0 vdd gnd half_adder
x2 A1 B1 C1  C2 S1 vdd gnd full_adder
x3 A2 B2 C2 C3 S2 vdd gnd full_adder
x4 A3 B3 C3 carry S3 vdd gnd full_adder

.ends fourbit_adder
