
.include and_gate.sub
.include or_gate.sub    
.include nand_gate.sub
.include nor_gate.sub
.include xor_gate.sub

.subckt full_adder A B C carry sum vdd gnd
 X1 A B 1 vdd gnd  xor_Gates 
 X2 1 C sum vdd gnd  xor_Gates 
 X3 1 C 2 vdd gnd  and_Gates
X4 A B 3 vdd gnd  and_Gates
X5 2 3 carry vdd gnd or_Gates

.ends full_adder
