.include and_gate.sub
.include or_gate.sub
.include nand_gate.sub
.include nor_gate.sub
.include xor_gate.sub

.subckt half_adder A B  carry sum vdd gnd
 X1 A B sum vdd gnd  xor_Gates 
X4 A B carry vdd gnd  and_Gates
.ends half_adder
